### PR TITLE
feat: redefine `HashSet.union` and add lemmas

### PR DESCRIPTION
**Pull request by Paul-Lez**
This PR adds a few initial lemmas about unions on `Raw₀` to get feedback from @TwoFX.

### CODE REVIEW

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 1]
```diff
@@ -2308,6 +2308,45 @@ abbrev getD_insertManyIfNewUnit_empty_list := @getD_insertManyIfNewUnit_emptyWit
 
 end Const
 
+section Union
+
+variable (m₁ m₂ : Raw₀ α β)
+
+--Temporary: presumably we'll want to have this somewhere else (and redefine it in terms of `insertMany`?)
+def union : Raw₀ α β := ⟨m₁.val.union m₂.val, sorry⟩
```
Comment (Rob23oba) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:2316]: I'm pretty sure it's fine if you just use `m1.1.union m2.1` instead in the lemmas and then `(m.insert ..).1`

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 2]
```diff
@@ -2308,6 +2308,45 @@ abbrev getD_insertManyIfNewUnit_empty_list := @getD_insertManyIfNewUnit_emptyWit
...
+
+@[simp]
+theorem union_singleton {k : α} {v : β k} [EquivBEq α] [LawfulHashable α] (h : m.val.WF) :
+    m.val.union {⟨k, v⟩} = m.insert k v := by
+  sorry
+
+@[simp]
+theorem union_contains [EquivBEq α] [LawfulHashable α] (h₁ : m₁.val.WF) (h₂ : m₂.val.WF) {k : α} :
+    (m₁.union m₂).contains k = (m₁.contains k || m₂.contains k) := by
```
Comment (Rob23oba) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:2325]: Pretty sure the naming convention would be `contains_union` here.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 1 above)
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:2316]: No, I think we'll want to define `Raw₀.union` for consistency. Definitions on `Raw` should either not require that the buckets array is nonempty (like `fold`) or else perform the check and then call into a corresponding `Raw₀` function to make sure that the check is never performed again. The current definition of `Raw.union` gets this exactly wrong -- it is written in such a way that the size check is performed again for every element that is inserted.

Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:2316]: As for the actual definition of `union`, I'll make a suggestion in a bit.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 3]
```diff
@@ -2308,6 +2308,45 @@ abbrev getD_insertManyIfNewUnit_empty_list := @getD_insertManyIfNewUnit_emptyWit
...
+section Union
+
+variable (m₁ m₂ : Raw₀ α β)
+
+--Temporary: presumably we'll want to have this somewhere else (and redefine it in terms of `insertMany`?)
+def union : Raw₀ α β := ⟨m₁.val.union m₂.val, sorry⟩
+
+@[simp]
+theorem union_singleton {k : α} {v : β k} [EquivBEq α] [LawfulHashable α] (h : m.val.WF) :
+    m.val.union {⟨k, v⟩} = m.insert k v := by
```
[the remark this answers is not in the document]
Comment (Paul-Lez) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: That makes sense - I've made the change you suggested. Now that I think of it, don't we want to formulate this lemma in terms of `Raw_0` rather than `Raw`, e.g. changing the goal to something of the form 
```
m.union ⟨{p}, by sorry⟩ = m.insert p.fst p.snd
```

**Comment by TwoFX** [comment]
It would also be nice to have `size` lemmas similar to the ones for `insertMany`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Thinking about this more: since there is the lemma `Std.DHashMap.singleton_eq_insert`, the LHS of this lemma will actually not be in `simp` normal form in any user-facing situation, which suggests that we shouldn't have the lemma in this form. The correct statement is going to be a variant of your `union_insert` below, namely `m.union (empty.insert k v) = m.insert k v` (unlike the general case below, this is true on the nose, not just up to equivalence).

**Comment by Paul-Lez** [comment]
> It would also be nice to have `size` lemmas similar to the ones for `insertMany`.

Sounds good, I'll add some more this week!

File: src/Std/Data/DHashMap/Internal/Defs.lean [hunk 4]
```diff
@@ -422,6 +422,10 @@ where
     r := ⟨r.1.insert a b, fun _ h hm => h (r.2 _ h hm)⟩
   return r
 
+/-- Internal implementation detail of the hash map -/
+@[inline] def union [BEq α] [Hashable α] (m₁ m₂ : Raw₀ α β) : Raw₀ α β :=
+  if m₁.1.size ≤ m₂.1.size then (m₂.insertMany m₁.1).1 else (m₁.insertMany m₂.1).1
```
Comment (Rob23oba) [inline src/Std/Data/DHashMap/Internal/Defs.lean]: That makes the `getKey` stuff not too nice though, does it? Couldn't we instead use `insertMany` on one side and `insertManyIfNew` on the other to make `getKey` more predictable? (Also, since I'm working on tree maps currently, `Std.TreeSet` has `merge` and not `union`, `Std.HashSet` has `union` and not `merge`, but both do pretty much the same thing! Maybe we should unify these as well (add `union` for `TreeMap`s and `mergeWith` for `HashMap`s))

Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/Defs.lean]: Using `insertManyIfNew` on one side is a good idea, I hadn't thought of that.

Regarding `union`, `merge` and variants: you are correct, and we are also missing a version that calls the merge function if only one of the maps has a mapping. This is all on the TODO list.

Comment (Rob23oba) [reply src/Std/Data/DHashMap/Internal/Defs.lean]: Oh and while we're at it, something like `mergeAt` would also be nice so you can do:
```lean
map := map.mergeAt x 1 (. + .)
```
to implement a simple counter (something like https://docs.oracle.com/en/java/javase/21/docs/api/java.base/java/util/TreeMap.html#merge(K,V,java.util.function.BiFunction))

**Comment by TwoFX** [comment]
Work on this will continue at #10611.
